US04874861
To a solution of 0.8 g (0.004 mol) of 2-t-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone and 0.84 g (0.004 mol) of α-ethyl-p-t-butylbenzyl chloride dissolved in 20 ml of N,N-dimethylformamide was added 1.0 g (0.01 mol) of sodium carbonate at room temperature under stirring. After addition, the resulting mixture was stirred at 70°~80° C. for four hours. After allowed to cool, the reaction mixture was poured into 200 ml of water and then extracted with 100 ml of benzene. The resulting benzene layer was washed with 100 ml of water, dried over anhydrous sodium sulfate, and freed of solvent by distillation to give 1.5 g of crude product. The crude product was fractionated on silica gel column chromatography [developer: a mixed solvent of benzene and ethyl acetate (10:1 mixture)] to obtain 0.8 g of 2-t-butyl-5-(α-ethyl-p-t-butylbenzylthio)-4-methyl-3(2H)-pyridazinone.

reactant | 2-t-butyl-5-mercapto-4-methyl-3(2H)-pyridazinone | 0.004 mol, 0.8 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)S | C9H14N2OS
reactant | α-ethyl-p-t-butylbenzyl chloride | 0.004 mol, 0.84 g | C(C)C(C1=CC=C(C=C1)C(C)(C)C)Cl | C13H19Cl
reactant | sodium carbonate | 0.01 mol, 1.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 200 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-t-butyl-5-(α-ethyl-p-t-butylbenzylthio)-4-methyl-3(2H)-pyridazinone | 0.8 g | C(C)(C)(C)N1N=CC(=C(C1=O)C)SC(C1=CC=C(C=C1)C(C)(C)C)CC | C22H32N2OS
